US08022062B2
Prepare a slurry of sodium hydride (60% in mineral oil; 99 mg, 2.5 mmol) in DMF (4 mL) and heat to 65° C. Add a solution of 3-tert-butoxycarbonyl-7-chloro-6-hydroxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (250 mg, 0.84 mmol) in DMF (5 mL) dropwise and stir for 1 h. Add a solution of 4-fluorobenzyl bromide (191 mg, 1.0 mmol) in DMF (1 mL), stir at 65° C. for 1.5 h and cool to ambient temperature. Add water (1 mL) and concentrate the mixture to an oily residue. Partition the residue between EtOAc/hexane (1:1) and water. Dry the organic layer over Na2SO4, filter and concentrate in vacuo. Dissolve the residue in DCM, wash with 2N aqueous NaOH, dry the organic layer over Na2SO4, filter, and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (20:1, 10:1 and 7:1) to give 3-tert-butoxycarbonyl-7-chloro-6-(4-fluorobenzyloxy)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as an oil.

reactant | sodium hydride | 2.5 mmol, 99 mg | [H-].[Na+]
reactant | 3-tert-butoxycarbonyl-7-chloro-6-hydroxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.84 mmol, 250 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)O | C15H20ClNO3
reactant | 4-fluorobenzyl bromide | 1.0 mmol, 191 mg | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3-tert-butoxycarbonyl-7-chloro-6-(4-fluorobenzyloxy)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)OCC2=CC=C(C=C2)F | C22H25ClFNO3
